US09315458B2
E) methyl 5-bromo-3-fluoro-2-hydroxy-4-methoxybenzoate
To a solution of 5-bromo-3-fluoro-2-hydroxy-4-methoxybenzoic acid (0.70 g) in methanol (15.0 mL) was added dropwise thionyl chloride (0.39 mL) under ice-cooling. The reaction solution was stirred at 70° C. for 15 hr under argon atmosphere, and then overnight at room temperature. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.52 g).

reactant | 5-bromo-3-fluoro-2-hydroxy-4-methoxybenzoic acid | 0.70 g | BrC=1C(=C(C(=C(C(=O)O)C1)O)F)OC | C8H6BrFO4
reactant | thionyl chloride | 0.39 mL | S(=O)(Cl)Cl | Cl2OS
reactant | water | O | H2O
reactant | methanol | 15.0 mL | CO | CH4O
product | methyl 5-bromo-3-fluoro-2-hydroxy-4-methoxybenzoate | 0.52 g | BrC=1C(=C(C(=C(C(=O)OC)C1)O)F)OC | C9H8BrFO4
